** Name: SimpleTwoStageOpAmp_SimpleOpAmp114_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp114_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=13e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=176e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=108e-6
mDiodeTransistorNmos4 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=21e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mDiodeTransistorPmos6 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=7e-6 W=210e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=13e-6
mNormalTransistorNmos8 out ibias sourceNmos sourceNmos nmos4 L=4e-6 W=600e-6
mNormalTransistorNmos9 outFirstStage outVoltageBiasXXnXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=13e-6
mNormalTransistorNmos10 sourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=108e-6
mNormalTransistorNmos11 FirstStageYout1 outVoltageBiasXXnXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=13e-6
mNormalTransistorNmos12 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=13e-6
mNormalTransistorNmos13 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=13e-6
mNormalTransistorNmos14 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=176e-6
mNormalTransistorPmos15 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=527e-6
mNormalTransistorPmos16 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=7e-6 W=210e-6
mNormalTransistorPmos17 outInputVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=411e-6
mNormalTransistorPmos18 outVoltageBiasXXnXX2 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=190e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.10001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp114_7

** Expected Performance Values: 
** Gain: 98 dB
** Power consumption: 5.13501 mW
** Area: 7225 (mu_m)^2
** Transit frequency: 16.6281 MHz
** Transit frequency with error factor: 16.6163 MHz
** Slew rate: 34.7019 V/mu_s
** Phase margin: 60.1606°
** CMRR: 93 dB
** VoutMax: 4.78001 V
** VoutMin: 0.190001 V
** VcmMax: 4.48001 V
** VcmMin: 1.26001 V


** Expected Currents: 
** NormalTransistorNmos: 10.0111 muA
** NormalTransistorPmos: -336.336 muA
** NormalTransistorPmos: -158.405 muA
** NormalTransistorNmos: 24.7611 muA
** NormalTransistorNmos: 24.7611 muA
** DiodeTransistorPmos: -24.7619 muA
** NormalTransistorPmos: -24.7619 muA
** NormalTransistorNmos: 207.927 muA
** DiodeTransistorNmos: 207.926 muA
** NormalTransistorNmos: 24.7611 muA
** NormalTransistorNmos: 24.7611 muA
** NormalTransistorNmos: 462.671 muA
** NormalTransistorPmos: -462.67 muA
** DiodeTransistorNmos: 336.337 muA
** NormalTransistorNmos: 336.337 muA
** DiodeTransistorNmos: 158.406 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -10.0119 muA


** Expected Voltages: 
** ibias: 0.595001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX0: 4.22101  V
** out: 2.5  V
** outFirstStage: 4.21401  V
** outInputVoltageBiasXXnXX1: 1.11201  V
** outSourceVoltageBiasXXnXX1: 0.556001  V
** outVoltageBiasXXnXX2: 2.65001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** out1: 4.22101  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V
** inner: 0.556001  V


.END