** Name: SimpleTwoStageOpAmp_SimpleOpAmp114_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp114_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 ibias ibias outSourceVoltageBiasXXnXX3 outSourceVoltageBiasXXnXX3 nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos3 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=5e-6 W=67e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=125e-6
mDiodeTransistorNmos5 outSourceVoltageBiasXXnXX3 outSourceVoltageBiasXXnXX3 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos6 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=38e-6
mDiodeTransistorPmos7 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=10e-6 W=224e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX3 sourceNmos sourceNmos nmos4 L=2e-6 W=14e-6
mNormalTransistorNmos9 out ibias SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=2e-6 W=301e-6
mNormalTransistorNmos10 outFirstStage inputVoltageBiasXXnXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=29e-6
mNormalTransistorNmos11 sourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=5e-6 W=125e-6
mNormalTransistorNmos12 FirstStageYout1 inputVoltageBiasXXnXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=29e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=4e-6 W=58e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=4e-6 W=58e-6
mNormalTransistorNmos15 SecondStageYinnerStageBias outSourceVoltageBiasXXnXX3 sourceNmos sourceNmos nmos4 L=2e-6 W=600e-6
mNormalTransistorNmos16 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=67e-6
mNormalTransistorPmos17 inputVoltageBiasXXnXX2 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=52e-6
mNormalTransistorPmos18 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=515e-6
mNormalTransistorPmos19 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=10e-6 W=224e-6
mNormalTransistorPmos20 outInputVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=107e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.90001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp114_8

** Expected Performance Values: 
** Gain: 102 dB
** Power consumption: 3.68901 mW
** Area: 9769 (mu_m)^2
** Transit frequency: 14.7741 MHz
** Transit frequency with error factor: 14.765 MHz
** Slew rate: 18.6779 V/mu_s
** Phase margin: 60.1606°
** CMRR: 101 dB
** VoutMax: 4.74001 V
** VoutMin: 0.780001 V
** VcmMax: 4.43001 V
** VcmMin: 1.33001 V


** Expected Currents: 
** NormalTransistorNmos: 13.9931 muA
** NormalTransistorPmos: -39.2739 muA
** NormalTransistorPmos: -18.8589 muA
** NormalTransistorNmos: 27.6181 muA
** NormalTransistorNmos: 27.6181 muA
** DiodeTransistorPmos: -27.6189 muA
** NormalTransistorPmos: -27.6189 muA
** NormalTransistorNmos: 74.0931 muA
** DiodeTransistorNmos: 74.0921 muA
** NormalTransistorNmos: 27.6181 muA
** NormalTransistorNmos: 27.6181 muA
** NormalTransistorNmos: 600.478 muA
** NormalTransistorNmos: 600.477 muA
** NormalTransistorPmos: -600.477 muA
** DiodeTransistorNmos: 39.2731 muA
** NormalTransistorNmos: 39.2731 muA
** DiodeTransistorNmos: 18.8581 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -13.9939 muA


** Expected Voltages: 
** ibias: 1.11601  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX2: 2.65001  V
** inputVoltageBiasXXpXX0: 4.23401  V
** out: 2.5  V
** outFirstStage: 4.18001  V
** outInputVoltageBiasXXnXX1: 1.18401  V
** outSourceVoltageBiasXXnXX1: 0.592001  V
** outSourceVoltageBiasXXnXX3: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** out1: 4.17301  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V
** innerStageBias: 0.493001  V
** inner: 0.592001  V


.END