** Name: SimpleTwoStageOpAmp_SimpleOpAmp122_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp122_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=5e-6 W=15e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=10e-6 W=30e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=125e-6
mDiodeTransistorNmos4 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=5e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=5e-6 W=76e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=277e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=5e-6 W=243e-6
mNormalTransistorNmos8 out ibias sourceNmos sourceNmos nmos4 L=5e-6 W=600e-6
mNormalTransistorNmos9 outFirstStage outVoltageBiasXXnXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=25e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=5e-6 W=348e-6
mNormalTransistorNmos11 sourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=10e-6 W=125e-6
mNormalTransistorNmos12 FirstStageYinnerSourceLoad2 outVoltageBiasXXnXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=25e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=25e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=25e-6
mNormalTransistorNmos15 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=30e-6
mNormalTransistorPmos16 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=565e-6
mNormalTransistorPmos17 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=5e-6 W=24e-6
mNormalTransistorPmos18 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=19e-6
mNormalTransistorPmos19 outVoltageBiasXXnXX2 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=23e-6
mNormalTransistorPmos20 FirstStageYinnerSourceLoad2 inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=5e-6 W=24e-6
mNormalTransistorPmos21 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=5e-6 W=117e-6
mNormalTransistorPmos22 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=5e-6 W=117e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.80001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp122_7

** Expected Performance Values: 
** Gain: 140 dB
** Power consumption: 4.41401 mW
** Area: 12333 (mu_m)^2
** Transit frequency: 13.25 MHz
** Transit frequency with error factor: 13.2504 MHz
** Slew rate: 17.434 V/mu_s
** Phase margin: 60.1606°
** CMRR: 142 dB
** VoutMax: 4.80001 V
** VoutMin: 0.200001 V
** VcmMax: 5.02001 V
** VcmMin: 1.46001 V


** Expected Currents: 
** NormalTransistorNmos: 228.69 muA
** NormalTransistorNmos: 160.147 muA
** NormalTransistorPmos: -15.8469 muA
** NormalTransistorPmos: -18.8589 muA
** NormalTransistorNmos: 23.8081 muA
** NormalTransistorNmos: 23.8081 muA
** NormalTransistorPmos: -23.8089 muA
** NormalTransistorPmos: -23.8099 muA
** NormalTransistorPmos: -23.8089 muA
** NormalTransistorPmos: -23.8099 muA
** NormalTransistorNmos: 66.4731 muA
** DiodeTransistorNmos: 66.4721 muA
** NormalTransistorNmos: 23.8081 muA
** NormalTransistorNmos: 23.8081 muA
** NormalTransistorNmos: 401.661 muA
** NormalTransistorPmos: -401.66 muA
** DiodeTransistorNmos: 15.8461 muA
** NormalTransistorNmos: 15.8451 muA
** DiodeTransistorNmos: 18.8581 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -228.689 muA
** DiodeTransistorPmos: -160.146 muA


** Expected Voltages: 
** ibias: 0.603001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.67201  V
** out: 2.5  V
** outFirstStage: 4.23601  V
** outInputVoltageBiasXXnXX1: 1.31001  V
** outSourceVoltageBiasXXnXX1: 0.655001  V
** outVoltageBiasXXnXX2: 2.65001  V
** outVoltageBiasXXpXX0: 4.13201  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerSourceLoad2: 4.19701  V
** innerTransistorStack1Load2: 4.76101  V
** innerTransistorStack2Load2: 4.76101  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V
** inner: 0.654001  V


.END