** Name: SimpleTwoStageOpAmp_SimpleOpAmp123_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp123_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX3 outSourceVoltageBiasXXnXX3 nmos4 L=6e-6 W=12e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=3e-6 W=24e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=599e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX3 outSourceVoltageBiasXXnXX3 sourceNmos sourceNmos nmos4 L=6e-6 W=31e-6
mDiodeTransistorNmos5 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=14e-6
mDiodeTransistorPmos6 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=192e-6
mDiodeTransistorPmos7 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourcePmos sourcePmos pmos4 L=1e-6 W=87e-6
mDiodeTransistorPmos8 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=4e-6 W=87e-6
mNormalTransistorNmos9 inputVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX3 sourceNmos sourceNmos nmos4 L=6e-6 W=148e-6
mNormalTransistorNmos10 out inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=599e-6
mNormalTransistorNmos11 outFirstStage outVoltageBiasXXnXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=23e-6
mNormalTransistorNmos12 sourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=6e-6 W=151e-6
mNormalTransistorNmos13 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX3 sourceNmos sourceNmos nmos4 L=6e-6 W=595e-6
mNormalTransistorNmos14 FirstStageYout1 outVoltageBiasXXnXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=23e-6
mNormalTransistorNmos15 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=23e-6
mNormalTransistorNmos16 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=23e-6
mNormalTransistorNmos17 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=24e-6
mNormalTransistorPmos18 inputVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=247e-6
mNormalTransistorPmos19 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=317e-6
mNormalTransistorPmos20 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=4e-6 W=87e-6
mNormalTransistorPmos21 outVoltageBiasXXnXX2 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=436e-6
mNormalTransistorPmos22 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack2Load2 sourcePmos sourcePmos pmos4 L=1e-6 W=87e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 5.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp123_9

** Expected Performance Values: 
** Gain: 140 dB
** Power consumption: 9.08301 mW
** Area: 12403 (mu_m)^2
** Transit frequency: 17.4321 MHz
** Transit frequency with error factor: 17.4318 MHz
** Slew rate: 36.2315 V/mu_s
** Phase margin: 60.1606°
** CMRR: 138 dB
** VoutMax: 4.48001 V
** VoutMin: 1 V
** VcmMax: 3.62001 V
** VcmMin: 1.41001 V


** Expected Currents: 
** NormalTransistorNmos: 47.1751 muA
** NormalTransistorPmos: -60.3399 muA
** NormalTransistorPmos: -105.603 muA
** NormalTransistorNmos: 43.8071 muA
** NormalTransistorNmos: 43.8071 muA
** DiodeTransistorPmos: -43.8079 muA
** NormalTransistorPmos: -43.8089 muA
** NormalTransistorPmos: -43.8079 muA
** DiodeTransistorPmos: -43.8089 muA
** NormalTransistorNmos: 193.217 muA
** NormalTransistorNmos: 193.216 muA
** NormalTransistorNmos: 43.8071 muA
** NormalTransistorNmos: 43.8071 muA
** NormalTransistorNmos: 1505.95 muA
** DiodeTransistorNmos: 1505.95 muA
** NormalTransistorPmos: -1505.94 muA
** DiodeTransistorNmos: 60.3391 muA
** NormalTransistorNmos: 60.3381 muA
** DiodeTransistorNmos: 105.604 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -47.1759 muA


** Expected Voltages: 
** ibias: 1.20301  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.40501  V
** inputVoltageBiasXXpXX0: 4.27101  V
** out: 2.5  V
** outFirstStage: 3.91801  V
** outSourceVoltageBiasXXnXX1: 0.702001  V
** outSourceVoltageBiasXXnXX3: 0.556001  V
** outVoltageBiasXXnXX2: 2.65001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.498001  V
** innerTransistorStack1Load2: 4.26601  V
** innerTransistorStack2Load2: 4.26801  V
** out1: 3.36701  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V
** inner: 0.701001  V


.END