** Name: SimpleTwoStageOpAmp_SimpleOpAmp13_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp13_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=6e-6
mDiodeTransistorPmos2 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=2e-6 W=174e-6
mDiodeTransistorPmos3 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=2e-6 W=174e-6
mNormalTransistorNmos4 out ibias sourceNmos sourceNmos nmos4 L=2e-6 W=600e-6
mNormalTransistorNmos5 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=141e-6
mNormalTransistorNmos6 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=141e-6
mNormalTransistorNmos7 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=46e-6
mNormalTransistorPmos8 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=365e-6
mNormalTransistorPmos9 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 pmos4 L=2e-6 W=174e-6
mNormalTransistorPmos10 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=2e-6 W=174e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp13_7

** Expected Performance Values: 
** Gain: 95 dB
** Power consumption: 5.46201 mW
** Area: 5035 (mu_m)^2
** Transit frequency: 17.7381 MHz
** Transit frequency with error factor: 17.7277 MHz
** Slew rate: 16.7175 V/mu_s
** Phase margin: 60.1606°
** CMRR: 109 dB
** negPSRR: 106 dB
** posPSRR: 100 dB
** VoutMax: 4.61001 V
** VoutMin: 0.200001 V
** VcmMax: 3.96001 V
** VcmMin: 0.75 V


** Expected Currents: 
** DiodeTransistorPmos: -38.3659 muA
** NormalTransistorPmos: -38.3669 muA
** NormalTransistorPmos: -38.3659 muA
** DiodeTransistorPmos: -38.3669 muA
** NormalTransistorNmos: 76.7291 muA
** NormalTransistorNmos: 38.3651 muA
** NormalTransistorNmos: 38.3651 muA
** NormalTransistorNmos: 1005.65 muA
** NormalTransistorPmos: -1005.64 muA
** DiodeTransistorNmos: 9.99901 muA


** Expected Voltages: 
** ibias: 0.603001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.04201  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.27901  V
** innerTransistorStack1Load1: 4.27901  V
** out1: 3.55801  V
** sourceTransconductance: 1.94501  V


.END